US08541448B2
Intermediate 8.3: ethyl 2-(3-(6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)-N-((diethoxyphosphoryl)methyl)phenylsulfonamido)acetate
Into a 50-mL round-bottom flask, was placed a solution of ethyl 2-((diethoxyphosphoryl)methylamino)acetate (320 mg, 1.26 mmol, 1.00 equiv) in pyridine (10 mL). 3-(6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)benzene-1-sulfonyl chloride (500 mg, 1.28 mmol, 1.01 equiv) was added and the resulting solution was stirred overnight at room temperature. The reaction progress was monitored by LCMS. The resulting mixture was concentrated under vacuum. The crude product (400 mg) was purified by preparative HPLC to give 200 mg (24%) of the title compound as a TFA salt.

reactant | ethyl 2-((diethoxyphosphoryl)methylamino)acetate | 1.26 mmol, 320 mg, 1.00 equiv | C(C)OP(=O)(OCC)CNCC(=O)OCC | C9H20NO5P
reactant | 3-(6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)benzene-1-sulfonyl chloride | 1.28 mmol, 500 mg, 1.01 equiv | ClC=1C=C2C(CN(CC2=C(C1)Cl)C)C=1C=C(C=CC1)S(=O)(=O)Cl | C16H14Cl3NO2S
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | ethyl 2-(3-(6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)-N-((diethoxyphosphoryl)methyl)phenylsulfonamido)acetate | 200 mg, 24% | ClC=1C=C2C(CN(CC2=C(C1)Cl)C)C=1C=C(C=CC1)S(=O)(=O)N(CP(=O)(OCC)OCC)CC(=O)OCC | C25H33Cl2N2O7PS
